US06087380
f) 1-Methyl-2-[(4-cyanophenyl)oxymethyl]-5-carboxy-imidazo-[4.5-b]pyridine
1.25 g (4.3 mMol) of 1-methyl-2-[(4-cyanophenyl)oxymethyl]-imidazo[4,5-b]pyridine-5-carbaldehyde were dissolved in 10 ml formic acid and mixed at 0° C. with 1.0 ml hydrogen peroxide (33% strength). After 12 hours at 4° C. the white precipitate formed was suction filtered, washed with water and dried at 40° C. Yield: 0.81 g (61% of theory), C16H12N4O3 (308.7)

reactant | 1-methyl-2-[(4-cyanophenyl)oxymethyl]-imidazo[4,5-b]pyridine-5-carbaldehyde | 4.3 mMol, 1.25 g | CN1C(=NC2=NC(=CC=C21)C=O)COC2=CC=C(C=C2)C#N | C16H12N4O2
reactant | hydrogen peroxide | 1.0 ml | OO | H2O2
solvent | formic acid | 10 ml | C(=O)O | CH2O2
product | 1-Methyl-2-[(4-cyanophenyl)oxymethyl]-5-carboxy-imidazo-[4.5-b]pyridine | CN1C(=NC2=NC(=CC=C21)C(=O)O)COC2=CC=C(C=C2)C#N | C16H12N4O3
